US07381736B2
The hydrazine hydrate (7.12 mL; 147 mmol) is dissolved in 220 mL of ethanol. This solution is stirred at 0° C. and 3,4-dichlorobenzenisothiocyanate (20.00 g; 98 mmol) is added dropwise, and the reaction mixture is warmed to RT and stirred for two hours. After being cooled to 0° C., the mixture is filtered and the solid washed by cold ethanol (40 mL). The solid is crystallized from ethanol to yield ([(3,4-dichlorophenyl)-amino]hydrazinomethane-1-thione) (12.702 g; 55%) as a white solid.

reactant | hydrazine hydrate | 147 mmol, 7.12 mL | O.NN
reactant | 3,4-dichlorobenzenisothiocyanate | 98 mmol, 20.00 g | [N-]=C=S.ClC=1C=CC=CC1Cl
solvent | ethanol | 220 mL | C(C)O | C2H6O
product | [(3,4-dichlorophenyl)-amino]hydrazinomethane-1-thione | ClC=1C=C(C=CC1Cl)NNNC=S | C7H7Cl2N3S
